US04185096
In a mixture of 4 cm3 of dimethylformamide and 4 cm3 of dimethylsulfoxide, are added 100 mg of pepstatin and 100 mg of trifluoroacetate of benzyl ester of nitronine, 90 mg of BOP and 40 mg of triethylamine are then added. The reaction mixture is stirred for 6 days, 15 cm3 of water and then 20 cm3 of a saturated aqueous solution of ammonium sulfate are then added. After cooling to a temperature close to 0° C., the product is drained and then dissolved in a water hydrochloric acid- acetic acid mixture (19-1-80 by volume). The solution is subjected to hydrogenation at ordinary pressure in the presence of palladium on charcoal for 24 hours. The solution is filtered on "Celite". The filtrate is concentrated to dryness and the residue is taken up with 50 cm3 of isopropanol. After filtration of the insoluble residue, the filtrate is evaporated to dryness and the product obtained is dried. In this way, 60 mg of pepstatin-arginine are obtained of which the characteristics are as follows:

reactant | pepstatin | 100 mg | C[C@@H](C(=O)N[C@@H](CC(C)C)[C@H](CC(=O)O)O)NC(=O)C[C@@H]([C@H](CC(C)C)NC(=O)[C@H](C(C)C)NC(=O)[C@H](C(C)C)NC(=O)CC(C)C)O | C34H63N5O9
reactant | trifluoroacetate | 100 mg | FC(C(=O)[O-])(F)F
reactant | BOP | 90 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | dimethylformamide | 4 cm3 | CN(C=O)C | C3H7NO
solvent | dimethylsulfoxide | 4 cm3 | CS(=O)C | C2H6OS
solvent | water hydrochloric acid acetic acid | Cl.O.C(C)(=O)O
catalyst | palladium on charcoal | [Pd] | Pd
solvent | water | 15 cm3 | O | H2O
solvent | triethylamine | 40 mg | C(C)N(CC)CC | C6H15N
product | pepstatin arginine | 60 mg | C[C@@H](C(=O)N[C@@H](CC(C)C)[C@H](CC(=O)O)O)NC(=O)C[C@@H]([C@H](CC(C)C)NC(=O)[C@H](C(C)C)NC(=O)[C@H](C(C)C)NC(=O)CC(C)C)O.N[C@@H](CCCNC(N)=N)C(=O)O | InChI=1S/C34H63N5O9.C6H14N4O2/c1-17(2)12-23(37-33(47)31(21(9)10)39-34(48)30(20(7)8)38-27(42)14-19(5)6)25(40)15-28(43)35-22(11)32(46)36-24(13-18(3)4)26(41)16-29(44)45;7-4(5(11)12)2-1-3-10-6(8)9/h17-26,30-31,40-41H,12-16H2,1-11H3,(H,35,43)(H,36,46)(H,37,47)(H,38,42)(H,39,48)(H,44,45);4H,1-3,7H2,(H,11,12)(H4,8,9,10)/t22-,23-,24-,25-,26-,30-,31-;4-/m00/s1
